US04447435
A mixture of 4-hydroxy-3-hydroxymethylquinoline (5.0 g.), anhydrous potassium carbonate (1.6 g.), propyl bromide (2.6 ml.) and 2-butanone (500 ml.) was stirred and boiled under reflux for 18 hours. Additional propyl bromide (2 ml.) was added and the mixture boiled under reflux for 23 hours. The solvent was evaporated and the residue treated with water (100 ml.) and basified with 5 N aqueous sodium hydroxide. The solution was extracted with dichloromethane (4×100 ml.). The extract was dried and evaporated to give an oil. This oil was triturated with petroleum ether:ethyl acetate:industrial methylated spirit 12:1:1 to give the novel compound 3-hydroxymethyl-1-propyl-4-quinolone, m.p. 88°-91°.

reactant | 4-hydroxy-3-hydroxymethylquinoline | 5.0 g | OC1=C(C=NC2=CC=CC=C12)CO | C10H9NO2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl bromide | 2.6 ml | C(CC)Br | C3H7Br
reactant | propyl bromide | 2 ml | C(CC)Br | C3H7Br
solvent | 2-butanone | 500 ml | CC(CC)=O | C4H8O
product | 3-hydroxymethyl-1-propyl-4-quinolone | OCC1=CN(C2=CC=CC=C2C1=O)CCC | C13H15NO2
